US04608390
a. 3-(2-naphthyl)acrylic acid
Malonic acid (7.5 g, 72.1 mmole) and 2-naphthaldehyde (5.0 g, 32.0 mmole) were dissolved in pyridine (20 mL) and refluxed for 1 hour. After cooling to room temperature, the reaction mixture was poured into 2N HCl solution (200 mL). The product precipitated immediately. It was collected by filtration and recrystallized from aqueous ethanol (200 mL ethanol/50 mL water) to give colorless needles (5.2 g, 82%).

reactant | Malonic acid | 72.1 mmole, 7.5 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | 2-naphthaldehyde | 32.0 mmole, 5.0 g | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | HCl | 2N, 200 mL | Cl | ClH
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 3-(2-naphthyl)acrylic acid | 5.2 g, 82% | C1=C(C=CC2=CC=CC=C12)C=CC(=O)O | C13H10O2
